### PR TITLE
feat: remaining specialisation patterns

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

Implements the remaining specialisation patterns.

Addresses #215 and #239.

| Feature in `SpecPat`                                                   | Remarks                                                                                                                                                                                                                                                                                                                                                                                                                                  | Ported? |
|------------------------------------------------------------------------|------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------|---------|
| Nested specialisation patterns (`.ident` with specialisation patterns) | The functions `processWand` and `iSpecializeCore` are now mutual definitions. Similarly, `pmTerm` and `specPat` are defined by mutual induction, so the definitions in [`ProofModeTerm.lean`](https://github.com/ISTA-PLV/iris-lean/blob/master/Iris/Iris/ProofMode/Patterns/ProofModeTerm.lean) are moved into [`SpecPattern.lean`](https://github.com/ISTA-PLV/iris-lean/blob/SpecPats/Iris/Iris/ProofMode/Patterns/SpecPattern.lean). | ✓       |
| Subgoal for persistent premise (`.goal` with `kind := .persistent`)    | For the specialisation pattern `[# $H₁ … $Hₙ ]`, where `H₁ … Hₙ` are framed. Every hypotheses must be preceded by `$` as persistent premises do not consume spatial hypotheses, otherwise `processWand` throws a runtime error.                                                                                                                                                                                                          | ✓       |
| Auto-framing for persistent premise (`.autoframe .persistent`)         | For the specialisation pattern `[#$]`.                                                                                                                                                                                                                                                                                                                                                                                                   | ✓       |
| Subgoal for premise with modality (`.goal` with `kind := .modal`)      | For the specialisation pattern `[> $H₁ … $Hₙ ]`. This requires porting the type class `AddModal` and its instances. One of the instances uses `wandM`, which is being ported in PR #470 for `iinv`.                                                                                                                                                                                                                                      | ✓       |
| Auto-framing for premise with modality (`.autoframe .modal`)           | For the specialisation pattern `[>$]`.                                                                                                                                                                                                                                                                                                                                                                                                   | ✓       |

The original `SpecializeState` contains the field `pf : Q($orig ⊢ $e ∗ □?$p $out)`, but `orig ⊢ e ∗ □?p out` does not hold in general when the specialisation patterns involve `.autoframe .modal` or `.goal` with `kind := .modal`. The assertion therefore has to be weakened as `(e ∗ □?p out ⊢ goal) → orig ⊢ goal`. The problem is that `e ∗ □?p out ⊢ goal` is still required by the theorem `specialize_dup_context` for context duplication. The current solution is to have `(e ∗ □?p out ⊢ goal) → orig ⊢ goal` as a mandatory field and `orig ⊢ e ∗ □?p out` as an optional field in `SpecializeState`. Context duplication is possible only when the proof `orig ⊢ e ∗ □?p out` exists. Context duplication is mutually exclusive with specialisation patterns involving modalities.

The missing `AddModal` instances are also being ported. This addresses #237 in full, as well as #255 and #400 in part.

| `AddModal` instance        | Located in ... (Rocq)                                                                                                      | Located in.. (Lean)                                                                                                                | Ported? |
|----------------------------|----------------------------------------------------------------------------------------------------------------------------|------------------------------------------------------------------------------------------------------------------------------------|---------|
| `add_modal_fupd_wp`        | [`weakestpre.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/weakestpre.v)                       | [`WeakestPre.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/ProgramLogic/WeakestPre.lean)          | ✓       |
| `add_modal_forall`         | [`class_instances.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances.v)                 | [`Instances.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/ProofMode/Instances.lean)               | ✓       |
| `add_modal_tforall`        | `class_instances.v`                                                                                                        | `Instances.lean`                                                                                                                   |         |
| `add_modal_wand`           | `class_instances.v`                                                                                                        | `Instances.lean`                                                                                                                   | ✓       |
| `add_modal_wandM`          | `class_instances.v`                                                                                                        | `Instances.lean`                                                                                                                   | ✓       |
| `add_modal_except_0`       | [`class_instances_later.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances_later.v)     | [`InstancesLater.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/ProofMode/InstancesLater.lean)     | ✓       |
| `add_modal_except_0_later` | `class_instances_later.v`                                                                                                  | `InstancesLater.lean`                                                                                                              | ✓       |
| `add_modal_later`          | `class_instances_later.v`                                                                                                  | `InstancesLater.lean`                                                                                                              | ✓       |
| `add_modal_later_except_0` | `class_instances_later.v`                                                                                                  | `InstancesLater.lean`                                                                                                              | ✓       |
| `add_modal_bupd`           | [`class_instances_updates.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances_updates.v) | [`InstancesUpdates.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/ProofMode/InstancesUpdates.lean) | ✓       |
| `add_modal_fupd`           | `class_instances_updates.v`                                                                                                | `InstancesUpdates.lean`                                                                                                            | ✓       |
| `add_modal_id`             | [`classes.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/classes.v)                                 | [`Classes.lean`](https://github.com/leanprover-community/iris-lean/blob/master/Iris/Iris/ProofMode/Classes.lean)                   | ✓       |

There are also several modules yet to be ported in which `AddModal` instances are located:
- [`program_logic/total_weakestpre.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/program_logic/total_weakestpre.v): `add_modal_fupd_twp`
- [`proofmode/class_instances_embedding.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/class_instances_embedding.v): `add_modal_embed_bupd_goal`, `add_modal_embed_fupd_goal`
- [`proofmode/monpred.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/monpred.v): `add_modal_at_bupd_goal`, `add_modal_at_fupd_goal`

### Other Changes

- Similar to the changes in PR #496, `SpecPat.parse` is extended to return a pair for `Syntax` and `specPat` values so that `processWand` can use `withRef` to provide more precise syntax highlighting for error messages.

<p align="center">
<img width="204" height="38" alt="More syntax highlighting using withRef" src="https://github.com/user-attachments/assets/7018a86f-70d3-4dbf-a103-d93c0b70f125" />
</p>

- Docstrings are added for the specialisation pattern syntax, similar to the changes in PR #464.
- [Bug fix](https://github.com/leanprover-community/iris-lean/pull/500/commits/3c14a21c560ac903f3af39c269ef97f3698ef299): use `ProofModeM.trySynthInstance` instead of the built-in synthesiser (`trySynthInstance`) for type classes with the `ipm_class` annotation.
- Added missing `ipm_backtrack` annotations to the type class instances `intoAnd_sep`, `intoAnd_sep_affine` and `intoAbsorbingly_absorbing`.
- The function argument `e` for `iFrame` is made implicit as it can always be inferred using `hyps`.

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean [hunk 1]
```diff
@@ -20,25 +20,61 @@ syntax ident : frameIdent
...
+syntax term (colGt " $$ " (colGt ppSpace specPat)+)? : pmTerm
 
 @[rocq_alias goal_kind]
 inductive SpecGoalKind
   | spatial
-  -- TODO: implement
   | modal
-  -- TODO: implement
-  | intuitionistic
+  | persistent
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/SpecPattern.lean]: I think this should be called `intuitionistic`

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean [hunk 2]
```diff
@@ -50,10 +86,9 @@ structure SpecGoal where
   hyps : List Ident
 deriving Repr, Inhabited
 
--- see https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/spec_patterns.v?ref_type=heads#L15
 @[rocq_alias spec_pat]
 inductive SpecPat
-  | ident (name : Ident)
+  | ident (name : Ident) (recursiveSpecPats : List <| Syntax × SpecPat)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/SpecPattern.lean]: Can this just be `| ident (t : PMTerm)`?

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean [hunk 3]
```diff
@@ -50,10 +86,9 @@ structure SpecGoal where
   hyps : List Ident
 deriving Repr, Inhabited
 
--- see https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/spec_patterns.v?ref_type=heads#L15
 @[rocq_alias spec_pat]
 inductive SpecPat
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/SpecPattern.lean]: Should `SpecPat` contain the `Syntax` and the inductive `SpecPatCase` or so, similar to cases pattern? At the moment there is quite a bit manual threading around of `Syntax` objects.

File: Iris/Iris/ProofMode/Tactics/Rewrite.lean [hunk 4]
```diff
@@ -112,11 +112,16 @@ end rule
 end IRewrite
 
 private def iRewriteCore {prop : Q(Type u)} {bi : Q(BI $prop)}
-    {e} (hyps : Hyps bi e) (rule : IRewrite.Rule)
+    {e} (hyps : Hyps bi e) (_goal : Q($prop)) (rule : IRewrite.Rule)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Rewrite.lean]: Why is the `_goal` necessary?

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 5]
```diff
@@ -16,134 +16,308 @@ namespace Iris.ProofMode
...
 
-structure SpecializeState {prop : Q(Type u)} (bi : Q(BI $prop)) (orig : Q($prop)) where
-  (e : Q($prop)) (hyps : Hyps bi e) (p : Q(Bool)) (out : Q($prop))
-  pf : Q($orig ⊢ $e ∗ □?$p $out)
+structure SpecializeState {prop : Q(Type u)} {bi : Q(BI $prop)} (orig goal : Q($prop)) where
+  {e : Q($prop)} (hyps : Hyps bi e) (p : Q(Bool)) (out : Q($prop))
+  -- A weaker proposition than `pf`, applicable even when the `.modal` kind is involved
+  (pfCont : Q(($e ∗ □?$p $out ⊢ $goal) → $orig ⊢ $goal))
+  -- Holds when the `.modal` kind is not involved, cannot duplicate context if `pf = none`
+  pf : Option Q($orig ⊢ $e ∗ □?$p $out)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]: It is a bit annoying that we have to construct two proofs. Is there a single proof term that works for both? Maybe something like `$e ∗ □?$p $out -∗ $goal ⊢ $orig -∗ $goal`?

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean (hunk 1 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/SpecPattern.lean]: Renamed in commit [74b6ff4](https://github.com/leanprover-community/iris-lean/pull/500/commits/74b6ff4b5c53405c3c92b88dfeeff81738e4657a).

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/SpecPattern.lean]: Yes, `SpecPat` and `PMTerm` is now defined by mutual induction.

Commit: [ce55c1c](https://github.com/leanprover-community/iris-lean/pull/500/commits/ce55c1c00ce3f2be55a43fe272ccb971ce8a7ecf)

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean (hunk 3 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/SpecPattern.lean]: Yes, by `SpecPat`, `PMTerm` and `SpecPatCase` are now defined by mutual induction such that the rest of the code is simplified.

Commit: [832d1d0](https://github.com/leanprover-community/iris-lean/pull/500/commits/832d1d0b0607cd6691b14e88158de26231490688)

File: Iris/Iris/ProofMode/Tactics/Rewrite.lean (hunk 4 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Rewrite.lean]: Residual code from previous attempts to update `iRewriteCore`. This redundant function argument has now been removed.

Commit: [ec648cb](https://github.com/leanprover-community/iris-lean/pull/500/commits/ec648cb924e0e4251b025c798e81d3d0eb991705)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 5 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: This one is tricky because `orig ⊢ e ∗ □?p out` is equivalent to `∀ goal, e ∗ □?p out -∗ goal ⊢ orig -∗ goal`, which is strictly stronger than both `(e ∗ □?p out ⊢ goal) → orig ⊢ goal` and `e ∗ □?p out -∗ goal ⊢ orig -∗ goal` whenever `goal` is specified.

In a nutshell, my original approach with two proofs in `SpecializeState` works because the use of modality-related patterns (e.g. `[>$]`) and context duplication are mutually exclusive. To avoid having two proofs in `SpecializeState`, the trick is actually to refactor `iSpecializeCore`:
- We first check whether modality-related specialisation patterns are used, and if so, context duplication is not applicable anyway. Hence, there is no need for the proof of `orig ⊢ e ∗ □?p out`.
- Otherwise, we first create a metavariable `goal` for the proof `(e ∗ □?p out ⊢ goal) → orig ⊢ goal` and then call `processWand`.
  - The metavariable `goal` is eventually instantiated with `e ∗ □?p out ⊢ goal`, so the proof in `SpecializeState` becomes `(e ∗ □?p out ⊢ e ∗ □?p out) → orig ⊢ e ∗ □?p out`. The premise is trivial by reflexivity, so we obtain `orig ⊢ e ∗ □?p out` for context duplication.
  - We rely on the fact that `goal` remains an uninstantiated metavariable throughout the code in `processWand` as long as no modality-related specialisation patterns are involved.

Commit: [b7ff996](https://github.com/leanprover-community/iris-lean/pull/500/commits/b7ff996e55476f3893d0bcb0533bd395dcad3883)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 6]
```diff
@@ -16,133 +16,288 @@ namespace Iris.ProofMode
...
-    let out₁ ← mkFreshExprMVarQ prop
-    let out₂ ← mkFreshExprMVarQ prop
-    let some _ ← ProofModeM.trySynthInstanceQ q(IntoWand $p false $out .out $out₁ .out $out₂)
-      | throwError m!"ispecialize: {out} is not a wand"
-    let res ← iFrame hyps out₁ (← SelPat.resolve hyps [.spatial, .intuitionistic])
+    let pfStep : Q($e ∗ □?$p $out ⊢ $e ∗ □?$p $Φ $x) :=
+      q(specialize_forall (A2 := $e) (p := $p) $inst $x)
+    return specState.update hyps p out' pfStep
+  -- Subgoal with `[ H₁ … Hₙ ]` or `[- H₁ … Hₙ ]`
+  | .goal { kind := .spatial, negate, trivial, frame := f, hyps := hs } g => do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]: The cases for `.spatial`, `.intuitionistic`, and `.modal` are very similar. Can you combine them into one case with some if statements to avoid the duplication? Then one can also maybe avoid some of the helper functions.

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 7]
```diff
@@ -16,133 +16,288 @@ namespace Iris.ProofMode
...
+  | .goal { kind := .modal, negate, trivial, frame := f, hyps := hs, .. } g =>
+    let ⟨el, _, hypsl', hypsr', pf', frameIVars⟩ ← splitFrameHyps hyps hs f negate
+    let ⟨_, out2, out1', instWand, instModal⟩ ← synthIntoWandModal p out goal
+    let pf'' ← finishFrameSubgoal hypsr' out1' trivial g frameIVars
+    let h : Q($e ⊢ $el ∗ $out1') := q($(pf').mp.trans (sep_mono_right $pf''))
+    let pfStep : Q(($el ∗ □?false $out2 ⊢ $goal) → $e ∗ □?$p $out ⊢ $goal) :=
+      q(fun k => specialize_modal $h k $instWand $instModal)
+    return specState.updateCont hypsl' q(false) out2 pfStep
+  -- Auto-framing with `[$]`
+  | .autoframe .spatial => do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]: The comment about duplication also applies to the `autoframe` cases. Can you combine them into one case?

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 8]
```diff
@@ -160,40 +315,75 @@ A tuple containing:
...
+    (spats : List SpecPat) (try_dup_context : Bool := false) :
+    ProofModeM ((e' : _) × Hyps bi e' × (pb : Q(Bool)) × (B : Q($prop)) ×
+      Q(($e' ∗ □?$pb $B ⊢ $goal) → $e ∗ □?$pa $A ⊢ $goal) ×
+      Option Q($e ∗ □?$pa $A ⊢ $e' ∗ □?$pb $B)) := do
+  -- Return the result directly when there are no nested specialisation patterns
+  if spats.isEmpty then
+    return ⟨_, hyps, pa, A, q(id), some q(.rfl)⟩
+
+  -- Modality-related specialisation patterns involved
+  if spats.any (·.anyModal) then
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]: We can also use this simple case if `try_dup_context` is false.

File: Iris/Iris/ProofMode/InstancesLater.lean [hunk 9]
```diff
@@ -318,6 +318,42 @@ instance (priority := default - 10) elimModal_timeless [BI PROP] p io (P P' Q :
   ElimModal True p io p P P' Q Q where
   elim_modal _ := ((sep_mono ((intuitionisticallyIf_mono into_except0).trans except0_intuitionisticallyIf) except0_intro).trans $ except0_sep.2.trans (except0_mono wand_elim_right)).trans is_except0
 
+/-- AddModal -/
+@[rocq_alias add_modal_later_except_0]
+instance (priority := default + 10) addModal_later_except_0 [BI PROP] (P Q : PROP) [h : Timeless P] :
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/InstancesLater.lean:324]: This instance probably needs an `ipm_backtrack`

File: Iris/Iris/ProofMode/InstancesLater.lean [hunk 10]
```diff
@@ -318,6 +318,42 @@ instance (priority := default - 10) elimModal_timeless [BI PROP] p io (P P' Q :
...
+    AddModal iprop(▷ P) P iprop(◇ Q) where
+  add_modal := calc
+    _ ⊢ ◇ P ∗ (P -∗ ◇ Q)   := sep_mono_left h.timeless
+    _ ⊢ ◇ (P ∗ (P -∗ ◇ Q)) := except0_frame_right
+    _ ⊢ ◇ (◇ Q)            := except0_mono wand_elim_right
+    _ ⊢ ◇ Q                 := except0_idem.mp
+
+@[rocq_alias add_modal_later]
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/InstancesLater.lean]: Also this instance likely needs `ipm_backtrack`.

File: Iris/Iris/ProofMode/Porting.lean [hunk 11]
```diff
@@ -26,7 +26,7 @@ import Iris.Std.RocqPorting
 #rocq_concept proofmode "Tactics" "iAssumption" ported "iassumption"
 #rocq_concept proofmode "Tactics" "iAssumptionCoq" ignored "weird tactic"
 #rocq_concept proofmode "Tactics" "iExFalso" ported "iexfalso"
-#rocq_concept proofmode "Tactics" "iPure (basic)" ported "ipure"
+#rocq_concept proofmode "Tactics" "iPure (basic)" ported "ipu<re"
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Porting.lean]: Typo?

Comment (alvinylt) [reply Iris/Iris/ProofMode/Porting.lean]: Yes, fixed in commit [dfce754](https://github.com/leanprover-community/iris-lean/pull/500/commits/dfce7544fc51009b385333e1f05cb53e74d3e966).

File: Iris/Iris/ProofMode/InstancesLater.lean (hunk 9 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/InstancesLater.lean:324]: Indeed, `ipm_backtrack` is added to the instance. I have also added a new test for `ispecialize` to check that the backtracking works.

Commit: [baca49d](https://github.com/leanprover-community/iris-lean/pull/500/commits/baca49db325e71753e5e2d36deed80bcf91835e4)

File: Iris/Iris/ProofMode/InstancesLater.lean (hunk 10 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/InstancesLater.lean]: Resolved in the same commit above (commit [baca49d](https://github.com/leanprover-community/iris-lean/pull/500/commits/baca49db325e71753e5e2d36deed80bcf91835e4)).

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 6 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: This is tricky: the cases `.spatial`, `intuitionistic` and `.modal` are all different in terms of the type classes synthesis steps and theorems used. For any two of the three cases, there is at most one common line of code, but there isn't any part of the code shared by all three cases.

Instead, it makes more sense to deduplicate code with the following pairing:
- `.goal` with `.kind := .spatial` (`[ H1 ... ]`, `[- H1 ... ]`) and `.autoframe` with `.kind := .spatial` (`[$]`)
- `.goal` with `.kind := .intuitionistic` (`[ #H1 ... ]`) and `.autoframe` with `.kind := .intuitionistic` (`[#$]`)
- `.goal` with `.kind := .modal` (`[> H1 ... ]`, `[>- H1 ... ]`) and `.autoframe` with `.kind := .modal` (`[>$]`)

I have refactored the code so that all these cases `processSpecGoal`, which then does pattern matching on `.kind`.

The deduplication is minimal (code reduced by 16 lines), but since we are moving plenty of things out of the mutual induction block, the build time seems to be significantly reduced.

Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: Commit: [0631755](https://github.com/leanprover-community/iris-lean/pull/500/commits/0631755f3f8371d338472bc2a99a3576cdac3043)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 7 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: Addressed in the comment above.

Commit: [0631755](https://github.com/leanprover-community/iris-lean/pull/500/commits/0631755f3f8371d338472bc2a99a3576cdac3043)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 8 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: I initially tried the following directly:

```lean4
 if !try_dup_context || spats.any (·.anyModal) then
    let st ← spats.foldlM processWand { hyps, p := pa, out := A, pf := q(id) }
    return ⟨_, st.hyps, st.p, st.out, st.pf⟩
```

This would break `iinv` as the metavariable trick produces the proof useful not just for context duplication but also for other usage cases such as in `iInvCore`, where `try_dup_context = false`.

The solution to this is some more refactoring so that `iSpecializeCore` calls `iSpecializeCoreNoModal`. The latter function stipulates that there is no modality-related specialisation pattern involved and returns the stronger proof. A side benefit of this is that we are able to simplify the type signature of `iSpecializeCore`. More specifically, `iSpecializeCore` now returns one proof instead of two.

Commit: [fb1b331](https://github.com/leanprover-community/iris-lean/pull/500/commits/fb1b331e489507f6532e6962bbda5c47506d3f19), [c4356fd](https://github.com/leanprover-community/iris-lean/pull/500/commits/c4356fd00c0391a483c015e72fe3f8768b4668a6)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 6 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: I think you can unify the spatial and modal cases if you use the trivial AddModal instance for the spatial case (i.e. prove `AddModal` for the spatial case using `addModal_id`).

Good observation that moving things out of the mutual induction block reduces build time!

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 12]
```diff
@@ -16,133 +16,273 @@ namespace Iris.ProofMode
...
+  let ⟨ref, spat⟩ := spat
+  withRef ref do
+  match spat with
+  -- A hypothesis name, possibly with nested specialisation patterns
+  | .ident pmt =>
+    let ivar ← hyps.findWithInfo ⟨pmt.term⟩
+    let ⟨_, hyps', _, out1', p1, _, pf'⟩ := hyps.remove false ivar
+    let ⟨e'', hyps'', pNest, outNest, pfContNest⟩ ←
+      iSpecializeCore hyps' p1 out1' q(iprop(□?$p $out -∗ $goal)) pmt.spats
+    let p2 := if pNest.constName! == ``true then p else q(false)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]:
```suggestion
    let p2 := if isTrue pNest then p else q(false)
```

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 13]
```diff
@@ -16,133 +16,273 @@ namespace Iris.ProofMode
...
+    ProofModeM ((e' : Q($prop)) × Hyps bi e' × Q($e ⊢ $e' ∗ $P)) := do
+  match spec with
+  -- Generate subgoal: `[ H₁ … Hₙ ]`, `[- H₁ … Hₙ ]`, `[> H₁ … Hₙ ]` or `[>- H₁ … Hₙ ]`
+  | some ⟨{ negate, trivial, frame := f, hyps := hs, .. }, name⟩ =>
+    let ⟨el, _, hypsl, hypsr, pf', frameIVars⟩ ← splitFrameHyps hyps hs f negate
+    let pf'' ← finishFrameSubgoal hypsr P trivial name frameIVars
+    return ⟨el, hypsl, q($(pf').mp.trans <| sep_mono_right $pf'')⟩
+  -- Auto-framing: `[$]` or `[>$]`
+  | none =>
+    let res ← iFrame hyps P <| ← SelPat.resolve hyps [.spatial, .intuitionistic]
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]: Why does this use `iFrame` instead of `finishFrameSubgoal`? Also `[#$]` seems to use itrivial, but `[$]` and `[>$]` do not as far as I see. I am not fully sure, but I think the Rocq version uses the correspondence of `itrivial` in all three cases.

File: Iris/Iris/ProofMode/Tactics/Specialize.lean [hunk 14]
```diff
@@ -16,133 +16,273 @@ namespace Iris.ProofMode
...
+partial def processWand {u} {prop : Q(Type u)} {bi : Q(BI $prop)} {orig goal : Q($prop)}
+    (specState : @SpecializeState u prop bi orig goal) (spat : SpecPat) :
+    ProofModeM (@SpecializeState u prop bi orig goal) := do
+  let { e, hyps, p, out, .. } := specState
+  let ⟨ref, spat⟩ := spat
+  withRef ref do
+  match spat with
+  -- A hypothesis name, possibly with nested specialisation patterns
+  | .ident pmt =>
+    let ivar ← hyps.findWithInfo ⟨pmt.term⟩
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Specialize.lean]: What if `pmt.term` is not actually an identifier? (I am not sure if we need / want to support that case, but we should at least make sure that there is a sensible error message. Maybe something similar to the code in `ispecialize`.)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 12 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: Resolved in commit [62984f6](https://github.com/leanprover-community/iris-lean/pull/500/commits/62984f633066bbe0e91ed83de1329655e6a86db2).

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 14 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: The line is modified to use `try?` and throws an error if the identifier is invalid.

Commit: [2c16618](https://github.com/leanprover-community/iris-lean/pull/500/commits/2c16618501f8afc85081ba13da2bdb9072ef815f)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 13 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: My oversight: it's actually the opposite in [the Rocq version](https://gitlab.mpi-sws.org/iris/iris/-/blob/06233e076a9d72f05c41c6059f9fc9e9b98846a0/iris/proofmode/ltac_tactics.v#L999-L1015). With the auto-framing (`[$]`, `[#$]` and `[>$]`) patterns, `itrivial` are not used.

Here is an example proof in Rocq:

```rocq
Lemma test_lemma (P Q : PROP) : (⌜2 = 2⌝ -∗ P) -∗ P.
Proof.
  iIntros "Himp".
  iSpecialize ("Himp" with "[# //]").
  iAssumption.
Qed.
```

It fails with `iSpecialize ("Himp" with "[# $]")`.

My previous implementation of `[#$]` was too strong and solved it. Now it no longer does (consistent with the other two auto-framing patterns).

Commit: [0e02267](https://github.com/leanprover-community/iris-lean/pull/500/commits/0e0226773dc19c5fd27a01c046c72593f8a121de)

File: Iris/Iris/ProofMode/Tactics/Specialize.lean (hunk 6 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Tactics/Specialize.lean]: I cleaned this up in https://github.com/leanprover-community/iris-lean/pull/500/commits/0d24861beca233f24f35138ccbf3ac32e89c2614

**Comment by MackieLoeffel** [comment]
I made some small cleanups in https://github.com/leanprover-community/iris-lean/pull/500/commits/0d24861beca233f24f35138ccbf3ac32e89c2614. It looks good from my side now! @alvinylt Is there anything you want to do or can this be merged?

**Comment by alvinylt** [comment]
Looks good to me! This can be merged.

**Comment by MackieLoeffel** [comment]
Great! Thanks for your work on this, I think this is really cool! Merging.
